US09260429B2
1,2,6-trimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole (214 mg, 1 mmol) was mixed with CuSO4.5H2O (50 mg, 0.2 mmol), 1,10-phenanthroline (72 mg, 0.4 mmol), K3PO4 (425 mg, 2 mmol) and 1-(bromoethynyl)-4-chlorobenzene (237 mg, 1.1 mmol) in toluene (8-10 ml). The reaction mixture was flushed with nitrogen and heated at 80° C. for 16 h. The reaction mixture was filtered through Celite, and the Celite bed was rinsed with dichloromethane. Combined organic layer was concentrated under reduced pressure and the residue was purified by silica gel chromatography (100-200 mesh) eluting with 60-80% ethyl acetate in hexane to obtain 9-((4-chlorophenyl)ethynyl)-1,2,6-trimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole (67 mg) as brown semi solid. 1H NMR (CDCl3) FREE BASE 7.42 (d, 2H), 7.38 (d, 2H), 7.30 (m, 2H), 7.10 (d, 1H), 3.90 (m, 1H), 3.20 (m, 1H), 2.90 (m, 2H), 2.62 (m, 1H), 2.58 (s, 3H), 2.42 (s, 3H), 1.30 (d, 3H).

reactant | 1,2,6-trimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 1 mmol, 214 mg | CC1N(CCC2=C1NC1=CC=C(C=C21)C)C | C14H18N2
reactant | 1,10-phenanthroline | 0.4 mmol, 72 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | K3PO4 | 2 mmol, 425 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1-(bromoethynyl)-4-chlorobenzene | 1.1 mmol, 237 mg | BrC#CC1=CC=C(C=C1)Cl | C8H4BrCl
solvent | toluene | 8-10 ml | C1(=CC=CC=C1)C | C7H8
product | 9-((4-chlorophenyl)ethynyl)-1,2,6-trimethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 67 mg | ClC1=CC=C(C=C1)C#CN1C2=C(C3=CC(=CC=C13)C)CCN(C2C)C | C22H21ClN2
